US05872137
A reaction vessel was charged with 30.5 g of 4-hydroxyphenyl benzoate, 21.6 g of potassium carbonate, 20.8 g of 1,1,3-trichloropropene and 100 ml of N,N-dimethylformamide. After stirring at room temperature for 15 hours, the reaction mixture was poured into water, and extracted twice with 150 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 44.1 g of 4-(3,3-dichloro-2-propenyloxy)phenyl benzoate (96% yield).

reactant | 4-hydroxyphenyl benzoate | 30.5 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)O | C13H10O3
reactant | potassium carbonate | 21.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloropropene | 20.8 g | ClC(=CCCl)Cl | C3H3Cl3
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(3,3-dichloro-2-propenyloxy)phenyl benzoate | 44.1 g, 96% yield | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OCC=C(Cl)Cl | C16H12Cl2O3
